US04410536
9-Phenethyl-1-phenyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole
28.0 g of 5-hydrazino-3-phenylbenzothiophene hydrochloride are allowed to react with 21.0 g of N-(2-phenethyl)-4-piperidone in 500 ml of isopropanol at room temperature for 2 hours. After filtering off the crystall sludge, this is suspended in 150 ml of N NaOH and the suspension is extracted with methylene chloride. The organic phase is washed with water until neutral and evaporated, the oily residue is taken up in 400 ml of ethylene glycol and the mixture is heated to 190° C. for 30 minutes. The substance which has crystallised out after cooling is filtered off and recrystallised from toluene. Melting point: 220°-221° C.

reactant | 5-hydrazino-3-phenylbenzothiophene hydrochloride | 28.0 g | Cl.N(N)C=1C=CC2=C(C(=CS2)C2=CC=CC=C2)C1
reactant | N-(2-phenethyl)-4-piperidone | 21.0 g | C1CN(CCC1=O)CCC2=CC=CC=C2 | C13H17NO
solvent | isopropanol | 500 ml | C(C)(C)O | C3H8O
product | 9-Phenethyl-1-phenyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole | C(CC1=CC=CC=C1)N1CC2=C(NC3=CC=C4C(=C23)C(=CS4)C4=CC=CC=C4)CC1 | C27H24N2S
